US07129235B2
A mixture of 2-chloropyrimidine (0.570 g, 4.98 mmol), and isoguvacine, sodium salt (1.2 g, 8.2 mmol) in water (7 mL) was heated to 90° C. and stirred for 4 hour. Additional isoguvacine, sodium salt (0.52 g, 3.3 mmol) was then added and stirred overnight. The mixture was diluted with water and extracted with CH2Cl2. The aqueous layer was acidified with conc HCl (pH˜3) and extracted with CHCl3. The organic layer was dried (Na2SO4), filtered and concentrated under reduced pressure to provide 1-Pyrimidin-2-yl-1,2,3,6-tetrahydro-pyridine-4-carboxylic acid a white solid (0.564 g, 2.75 mmol, 55%): 1H NMR (300 MHz, CD3OD) δ 8.43 (d, J=4.8 Hz, 2 H), 7.02 (sept, J=1.7 Hz, 1H), 6.74 (t, J=4.8 Hz, 1H), 4.39 (q, J=3.0 Hz, 2H), 3.97 (t, J=5.8 Hz, 2H), 2.49 (m, 2H).

reactant | 2-chloropyrimidine | 4.98 mmol, 0.570 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | isoguvacine | C1CNCC=C1C(=O)O | C6H9NO2
reactant | sodium | 8.2 mmol, 1.2 g | [Na] | Na
reactant | sodium | 3.3 mmol, 0.52 g | [Na] | Na
solvent | water | 7 mL | O | H2O
product | 1-Pyrimidin-2-yl-1,2,3,6-tetrahydro-pyridine-4-carboxylic acid | N1=C(N=CC=C1)N1CCC(=CC1)C(=O)O | C10H11N3O2
